US04189436
Preparation of β-amino-2-thiopheneacrylonitrile
A reaction flask is dried by flaming with a stream of nitrogen passing through it. About 100 ml. of ammonia is condensed in the reaction flask and a small piece of sodium is added, giving a blue color. The color is discharged with ferric chloride and 2.7 g. of sodium is added. When the blue color disappears, 4.91 ml. of acetonitrile in 10 ml. of diethyl ether is added. The reaction is cooled in a dry ice-acetone bath and 9.28 g. of 2-thiophenecarbonitrile in 25 ml. of tetrahydrofuran is added dropwise. Cooling is continued for 30 minutes then the ammonia and solvent are allowed to evaporate. A 50 ml. portion of water is added and the mixture is extracted with methylene chloride. The methylene chloride extracts are dried over sodium sulfate and then passed through Magnesol®. Hexanes are added and the filtrate is evaporated on a steam bath to an oil. This oil is dry column chromatographed on silica gel, eluting with methylene chloride. The fraction containing the desired product is taken up in methylene chloride, passed through Magnesol® and the filtrate is evaporated on a steam bath with the addition of hexanes until an oil comes out. Cooling and seeding gives the desired product as crystals, m.p. 50°-54° C.

reactant | sodium | [Na] | Na
reactant | acetonitrile | C(C)#N | C2H3N
reactant | 2-thiophenecarbonitrile | S1C(=CC=C1)C#N | C5H3NS
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | β-amino-2-thiopheneacrylonitrile | NC(=CC#N)C=1SC=CC1 | C7H6N2S
